US05593996
5-Chloro-6-(4-methoxyphenyl)-7-cyclopentylamino1,2,4-triazolo[1,5-a]pyrimidine (5.1 g, 14.8 mmol), prepared by a method analogous to Example 1, was dissolved in a mixture of methanol (100 ml) and aqueous sodium hydroxide (1N, 15 ml), palladium (0.5 g; on charcoal, 5% E 10N) was added and the reaction mixture stirred for 3 hours under hydrogen (5 bar). The catalyst was removed by filtration and the filtrate evaporated in vacuo. Column chromatography of the residue on a silica gel column (3.5×15 cm) using 4:1 ethyl acetate: petroleum ether as eluant and evaporation of the solvent in vacuo gave 2.6 g 6-(4-methoxyphenyl)-7-cyclopentylamino-1,2,4-triazolo-[1,5-a]pyrimidine as colourless crystals, m.pt. 127° C. Yield: 57% of theoretical 1H-NMR: δ=1.35-1.75 (2 m,8H); 3.88 (s,3H); 6.16 (d,1H); 7.00 (dd,2H); 7.34 (m,2H); 8.32 (s,1H); 8.34 (s,1H) ppm

reactant | 5-Chloro-6-(4-methoxyphenyl)-7-cyclopentylamino1,2,4-triazolo[1,5-a]pyrimidine | 14.8 mmol, 5.1 g | ClC1=NC=2N(C(=C1C1=CC=C(C=C1)OC)NC1CCCC1)N=CN2 | C17H18ClN5O
solvent | methanol | 100 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
catalyst | palladium | 10N, 0.5 g | [Pd] | Pd
product | 6-(4-methoxyphenyl)-7-cyclopentylamino-1,2,4-triazolo-[1,5-a]pyrimidine | 2.6 g, Yield: 57% | COC1=CC=C(C=C1)C=1C=NC=2N(C1NC1CCCC1)N=CN2 | C17H19N5O
